2127-10-22 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: A. fib with RVR post urologic procedure, hypotension,
   fever
   24 Hour Events:
   -patient transitioned from neo to levophed o/n, is on higher doses of
   levohphed but is able to maintain his pressure much better
   -CVP
s initially low but increased drastically with IVF, increased from
   7 to 16 with 1L IVF
   -patient with continued decreased urine output overnight  that was
   grossly bloody and rising Cr this morning, causing concern for
   obstruction
   -added empiric flagyl and po vancomycin for C.diff given his history
   and rapidly climbing white count
   - renal ultrasound pending
   - echocardiogram pending
 BLOOD CULTURED - At [**2127-10-21**] 06:03 PM
 MULTI LUMEN - START [**2127-10-21**] 06:15 PM
 FEVER - 102.8
F - [**2127-10-21**] 06:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-10-21**] 06:09 PM
   Linezolid - [**2127-10-21**] 08:09 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-10-22**] 02:17 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.33 mcg/Kg/min
   Other ICU medications:
   Diltiazem - [**2127-10-21**] 02:05 PM
   Metoprolol - [**2127-10-21**] 02:27 PM
   Lorazepam (Ativan) - [**2127-10-21**] 04:54 PM
   Morphine Sulfate - [**2127-10-21**] 04:54 PM
   Fentanyl - [**2127-10-21**] 06:02 PM
   Midazolam (Versed) - [**2127-10-21**] 06:46 PM
   Heparin Sodium (Prophylaxis) - [**2127-10-21**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt. c/o being restrained o/n.
   Flowsheet Data as of  [**2127-10-22**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 38.1
C (100.6
   HR: 82 (81 - 163) bpm
   BP: 100/59(66) {70/31(31) - 118/83(86)} mmHg
   RR: 23 (10 - 34) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.3 kg (admission): 90.1 kg
    CVP: 14 (4 - 16)mmHg
   Total In:
                                                                  2,298 mL
                                                                  1,171 mL
   PO:
   TF:
   IVF:
                                                                  2,298 mL
                                                                  1,171 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                    115 mL
   Urine:
                                                                    350 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,948 mL
                                                                  1,056 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.36/33/256/19/-5
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   slight, at bases, Wheezes : scattered, slight, Rhonchorous: some
   ronchi), fair air movement
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Cyanosis
   Skin:  Cool, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   163 K/uL
   11.1 g/dL
   149 mg/dL
   3.7 mg/dL
   19 mEq/L
   4.3 mEq/L
   62 mg/dL
   107 mEq/L
   141 mEq/L
   35.5 %
   29.7 K/uL
        [image002.jpg]
                             [**2127-10-21**]  01:55 PM
                             [**2127-10-21**]  05:21 PM
                             [**2127-10-22**]  01:30 AM
                             [**2127-10-22**]  03:52 AM
   WBC
   8.5
   29.7
   Hct
   36.9
   32.9
   35.5
   Plt
   234
   163
   Cr
   2.2
   3.7
   TropT
   0.02
   0.02
   0.03
   TCO2
   19
   Glucose
   89
   82
   149
   Other labs: PT / PTT / INR:15.0/28.5/1.3, CK / CKMB /
   Troponin-T:822/11/0.03, ALT / AST:35/88, Alk Phos / T Bili:108/2.2,
   Differential-Neuts:74.0 %, Band:21.0 %, Lymph:2.0 %, Mono:1.0 %,
   Eos:0.0 %, Lactic Acid:4.3 mmol/L, Albumin:3.2 g/dL, LDH:321 IU/L,
   Ca++:7.5 mg/dL, Mg++:1.3 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   This is a 69 year old man with transitional cell bladder cancer
   diagnosed in [**2126-10-16**], s/p neobladder and multiple procedures for
   ureteral function after the neobladder, including today's ureteral
   stent swap in the OR by urology; he comes to the [**Hospital Unit Name 1**] for management of
   post-op afib and hypotension.
   .
   HYPOTENSION/SEPSIS
   Multifactorial: RVR and inadequate filling times; likely infection and
   sepsis leading to probable low SVR and effective intravascular
   hypovolemia; also with possible cardiac ischemia concerning for
   decreased cardiac output due to myocardial injury.  Patient was
   initially on neo, vasopressin was added, still with suboptimal MAP
   as a result he was transitioned to levophed and the neo was
   discontinued, with improvement in his MAP
s likely partially related to
   increased cardiac output from the Beta 1 activity.  Additionally, the
   levophed did not exacerbate his tachycardia.
   - check CVP to eval volume status; fluids per sepsis protocol if low
   - antibiotic coverage with zosyn and linezolid, zosyn for coverage of
   GU organisms, linazolid b/c the patient was colonized with VRE and
   concern for systemic spread with instrumentation
   - patient with newly elevated white count overnight to 29, pt. with h/o
   C.diff will start empiric treatment with flagyl and po vancomycin, and
   send stool for C. diff
   - renal u/s to evaluate for possible hydronephrosis/pyelonephritis, and
   to ensure that the stents are draining
   - f/u blood/urine cultures
   - if all cx
s are negative then would need to consider a more
   cardiogenic cause of hypotension
   - continue to monitor UOP, as it has been between 15-30cc
s per hour,
   concern for hypoperfusion and possible obstruction
   .
   ACUTE RENAL FAILURE: DDx is obstruction vs. ATN from hypoperfusion,
   could be combination of both
   - Acute bump in Cr to 3.7, concern for decreased GFR to almost zero
   given drastic rise in Cr
   - F/U renal U/S from this morning, concern that patient may need
   percutaneous nephrotomy tubes based on results, Urology is following
   closely, appreciate recs
   - Send urine electrolytes and sediment
   - More aggressive IV fluid hydration
   - continue to monitor urine output
   .
   ATRIAL FIBRILLATION: significantly improved rate control while on
   amiodarone, with his HR ranging in the 70
s to 90
s.  Concern for
   strain on his heart with his recent A.Fib with RVR, especially with
   elevated CK
s and mildly elevated troponins.  Patient has not had any
   chest pain throughout this episode, and his CK index is very low with
   elevated CK
s and low MB
s.  Also with his new renal failure playing a
   role in not clearing the troponins/CK
s.  Elevated enzymes likely due
   to demand ischemia in the setting of hypotension and rapid heart rate.
   - will continue to hold patient
s home metoprolol in the setting of
   sepsis
   - continue amio infusion for rate control
   - cardiac enzymes cycled with similar pattern of elevated CK, low MB,
   normal index and mildly elevated troponins to 0.03
   - check an echocardiogram to evaluate cardiac function
   .
   ICU Care
   Nutrition: NPO for now, pending possible procedure
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-10-21**] 06:00 PM
   Multi Lumen - [**2127-10-21**] 06:15 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI-patient will tolerate intubation as long as he
   is sedated for the intubation
   Disposition: ICU for now

2127-10-22 09:12:00 Physician Attending Progress Note
Chief Complaint: Hypotension, afib, renal failure, anemia, bladder ca
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   CVP was 7 after placement yesterday of line. Patient given fluids with
   fairly rapid rise in CVP. Phenylephrine weaned off and levophed
   started. Vasopressin also started.
   Creat rising today. Urine output going down. CPK elevated.
   Amiodarone started to try to get better rate control with AFib.
   24 Hour Events:
 BLOOD CULTURED - At [**2127-10-21**] 06:03 PM
 MULTI LUMEN - START [**2127-10-21**] 06:15 PM
 FEVER - 102.8
F - [**2127-10-21**] 06:00 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-10-21**] 06:09 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-10-22**] 02:17 AM
   Linezolid - [**2127-10-22**] 08:02 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.35 mcg/Kg/min
   Other ICU medications:
   Diltiazem - [**2127-10-21**] 02:05 PM
   Metoprolol - [**2127-10-21**] 02:27 PM
   Lorazepam (Ativan) - [**2127-10-21**] 04:54 PM
   Morphine Sulfate - [**2127-10-21**] 04:54 PM
   Fentanyl - [**2127-10-21**] 06:02 PM
   Midazolam (Versed) - [**2127-10-21**] 06:46 PM
   Heparin Sodium (Prophylaxis) - [**2127-10-21**] 10:00 PM
   Other medications:
   Amiodarone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-22**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.3
C (99.2
   HR: 83 (75 - 163) bpm
   BP: 118/56(69) {70/31(31) - 118/83(86)} mmHg
   RR: 23 (10 - 34) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.3 kg (admission): 90.1 kg
   CVP: 8 (4 - 301)mmHg
   Total In:
                                                                  2,298 mL
                                                                  2,158 mL
   PO:
   TF:
   IVF:
                                                                  2,298 mL
                                                                  2,158 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                    130 mL
   Urine:
                                                                    350 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,948 mL
                                                                  2,028 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.36/33/256/19/-5
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Coarse, left greater than
   right. Partially clear with cough, No(t) Bronchial: , No(t) Wheezes : ,
   No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing, Chronic venous
   stasis changes
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   163 K/uL
   149 mg/dL
   3.7 mg/dL
   19 mEq/L
   4.3 mEq/L
   62 mg/dL
   107 mEq/L
   141 mEq/L
   35.5 %
   29.7 K/uL
        [image002.jpg]
                             [**2127-10-21**]  01:55 PM
                             [**2127-10-21**]  05:21 PM
                             [**2127-10-22**]  01:30 AM
                             [**2127-10-22**]  03:52 AM
   WBC
   8.5
   29.7
   Hct
   36.9
   32.9
   35.5
   Plt
   234
   163
   Cr
   2.2
   3.7
   TropT
   0.02
   0.02
   0.03
   TCO2
   19
   Glucose
   89
   82
   149
   Other labs: PT / PTT / INR:15.0/28.5/1.3, CK / CKMB /
   Troponin-T:822/11/0.03, ALT / AST:35/88, Alk Phos / T Bili:108/2.2,
   Differential-Neuts:74.0 %, Band:21.0 %, Lymph:2.0 %, Mono:1.0 %,
   Eos:0.0 %, Lactic Acid:4.3 mmol/L, Albumin:3.2 g/dL, LDH:321 IU/L,
   Ca++:7.5 mg/dL, Mg++:1.3 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 .H/O ATRIAL FIBRILLATION (AFIB)
   ACUTE RENAL FAILURE
   ACIDOSIS
   ==========================
   Hypotension persists. CVP is 11 this AM without significant respiratory
   variation; mucus membranes dry. Mixed venous saturation is 83%
   consistent with sepsis rather than a low cardiac output as cause of
   hypotension. Heart rate now well controlled, so afib less likely a
   contributing factor. Will give some additional fluid today to see if we
   can wean the levophed and improve cardiac output. The rapid rise in CVP
   with fluids last night suggests diastolic dysfunction. Oxygenation
   remains good with small amount of supplemental oxygen.
   Creat up over 1 mg% in 24 hours, suggesting GFR of almost zero. Needs
   renal ultrasound to make sure that we are not dealing with obstructed
   stents as cause of renal failure. If no obstruction, I fear that
   patient may be in ATN; check urine sediment and urine electrolytes.
   Continues on antibiotics for gram negative and possible VRE, with which
   he has been colonized in past. Will adjust dosing for renal
   dysfunction. Check stool for c diff given incontinence/diarrhea.
   Acidosis with anion gap consistent with acute renal failure and
   possibly lactate with hypotension. Addressing both issues as above.
   Heart rate much better controlled with amiodarone. Concern he may have
   had demand ischemia and NSTEMI with high heart rates yesterday.
   ICU Care
   Nutrition: NPO and small amounts of clear liqs pending renal ultrasound
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2127-10-21**] 06:00 PM
   Multi Lumen - [**2127-10-21**] 06:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments: VAP protocol not indicated.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2127-10-23 06:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Septic Shock/Afib with RVR
   24 Hour Events:
   - urgent renal ultrasound --> did not show signs of obstruction; pt
   does not need IR nephrostomy tubes
   - started empiric flagyl and po vanc for c diff and sent of c diff
   toxin test
   - ECHO:  mild regional left ventricular systolic dysfunction with
   inferior hypokinesis. Trivial mitral regurgitation
   - urine output dropped off significantly for a couple of hours-- he
   responded well to 80mg IV bolus lasix--> about 800ccs urine in first
   few hours, then continued (increased from having very decreased urine
   output)--> started dropping off around 5am; (80 mg IV lasix x 2)
   - given 250cc bolus IVFs to help keep BP, but had crackles in lungs
   - after amiodarone infusion per protocol finished in late evening 1700,
   HR trended up to 130s.  pt had drop in BP w 2.5mg IV metoprolol to MAP
   of 40s-50s, so given 250ml bolus IVFs; HR into 110s, briefly into low
   100s, very labile ; levophed was turned up, vasopressin continued
   - K+ rapidly rising.  At 0200, K+ 5.5 (from 5.4) after 80mg IV lasix
   --> need to watch for continuing rise... so ordered for kayexalate when
   he wakes up;
   will give another 80mg IV lasix if his BP becomes stable and he can
   tolerate
   - Cr and phosphate rapidly rising as well throughout day/night
   - stopped subq Heparin b/c platelets appear to be dropping (dropped
   from 163 to 116 to 90); HIT-Ab sent
   - INR rising as well, but fibrinogen elevated (Acute phase reactant,
   not below 100, so not concerning for DIC); giving 5mg PO vit K when he
   wakes up
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-10-21**] 06:09 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-10-22**] 02:17 AM
   Linezolid - [**2127-10-22**] 08:07 PM
   Metronidazole - [**2127-10-23**] 02:00 AM
   Piperacillin - [**2127-10-23**] 03:00 AM
   Vancomycin - [**2127-10-23**] 05:04 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-10-22**] 08:00 PM
   Omeprazole (Prilosec) - [**2127-10-22**] 08:00 PM
   Furosemide (Lasix) - [**2127-10-22**] 09:30 PM
   Metoprolol - [**2127-10-23**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-23**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.6
C (97.9
   HR: 114 (75 - 127) bpm
   BP: 103/53(57) {81/44(51) - 193/167(173)} mmHg
   RR: 29 (17 - 31) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.3 kg (admission): 90.1 kg
    CVP: 9 (6 - 305)mmHg
   Mixed Venous O2% Sat: 75 - 79
   Total In:
                                                                  5,767 mL
                                                                  1,281 mL
   PO:
                                                                     60 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  5,707 mL
                                                                    981 mL
   Blood products:
   Total out:
                                                                  1,370 mL
                                                                    845 mL
   Urine:
                                                                  1,370 mL
                                                                    845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,397 mL
                                                                    436 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///13/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   slight, at bases, Wheezes : scattered, slight, Rhonchorous: some
   ronchi), fair air movement
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Cyanosis
   Skin:  Cool, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   90 K/uL
   10.1 g/dL
   70 mg/dL
   4.9 mg/dL
   13 mEq/L
   5.5 mEq/L
   78 mg/dL
   103 mEq/L
   136 mEq/L
   31.4 %
   26.9 K/uL
        [image002.jpg] Anion Gap: 20
                             [**2127-10-21**]  01:55 PM
                             [**2127-10-21**]  05:21 PM
                             [**2127-10-22**]  01:30 AM
                             [**2127-10-22**]  03:52 AM
                             [**2127-10-22**]  10:14 AM
                             [**2127-10-22**]  01:15 PM
                             [**2127-10-22**]  05:33 PM
                             [**2127-10-23**]  12:45 AM
                             [**2127-10-23**]  05:01 AM
   WBC
   8.5
   29.7
   25.4
   25.6
   26.9
   Hct
   36.9
   32.9
   35.5
   33.3
   31.8
   31.4
   Plt
   [**Telephone/Fax (3) 10584**]0
   90
   Cr
   2.2
   3.7
   4.3
   4.6
   4.9
   TropT
   0.02
   0.02
   0.03
   0.03
   0.03
   0.10
   TCO2
   19
   19
   15
   14
   Lactate
   4.3
   3.5
   3.5
   3.4
   Other labs: PT / PTT / INR:20.6/45.1/1.9, CK / CKMB / Troponin-T:1327
   (1281)/11/0.10, ALT / AST:60/130, Alk Phos / T Bili:41/2.4,
    Fibrinogen:461 mg/dL, LDH:450 IU/L;
   Differential-Neuts:52.0 %, Band:24.0 %, Lymph:1.0 %, Mono:3.0 %,
   Eos:0.0 %, Lactic Acid:3.9 mmol/L, Albumin:3.2 g/dL, , Ca++:7.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:6.0 mg/dL; Albumin 3.2
   O2 sats at [**2127-10-23**] at 0547: 79%
   [**2127-10-21**] 8:00 am URINE     Site: CYSTOSCOPY
   URINE CULTURE (Preliminary):
         GRAM POSITIVE COCCUS(COCCI).    >100,000 ORGANISMS/ML
   No other new culture data.
   Echo: The left atrium is mildly dilated. There is mild symmetric left
   ventricular hypertrophy with normal cavity size. There is mild regional
   left ventricular systolic dysfunction with inferior hypokinesis. There
   is no ventricular septal defect. Right ventricular chamber size and
   free wall motion are normal. The diameters of aorta at the sinus,
   ascending and arch levels are normal. The aortic valve leaflets (3) are
   mildly thickened but aortic stenosis is not present. No aortic
   regurgitation is seen. The mitral valve leaflets are mildly thickened.
   There is no mitral valve prolapse. Trivial mitral regurgitation is
   seen. The pulmonary artery systolic pressure could not be determined.
   There is no pericardial effusion.
   Renal U/S: 1. Right sided pelvicaliectasis with mild dilation of
   proximal ureter, markedly improved when compared to prior exam. 2. Mild
   hydronephrosis on the left with a stent in place, hydronephrosis
   markedly improved when compared to prior exam. A small cyst in the left
   upper pole.
   Assessment and Plan
   This is a 69 year old man with transitional cell bladder cancer
   diagnosed in [**2126-10-16**], s/p neobladder and multiple procedures for
   ureteral function after the neobladder, including recent ureteral stent
   swap in the OR; currently in [**Hospital Unit Name 1**] for afib with rvr and septic shock
   with multi-organ dysfunction.
   .
   HYPOTENSION/SEPSIS: Continues to have pressor requirements are
   increasing to maintain appropriate MAPs, also significantly more
   tachycardic; all leading to poor perfusion with dysfunction of his
   kidneys, liver, blood, heart
   Multifactorial:
   1.  Cardiogenic in part: RVR leading to inadequate filling times and
   afib causing loss of atrial kick leading to decreased stroke volume
   also  cardiac ischemia concerning for decreased cardiac output due to
   myocardial injury  as echo shows new inferior wall hypokinesis.
   2. Sepsis: Also  likely infection and sepsis leading to probable low
   PVR and effective intravascular hypovolemia; although CVP of 15 this
   AM. Patient appears intravascularly depleted as he has a low CVP.
   - Difficult fluid status as paitent appears intravascularly down yet
   cardiac function is decreased leading to a component of pulmonary
   edema.
   - check CVP to eval volume status with a goal of [**11-28**] and diurese or
   bolus as needed.
   - Wean down pressors as patient can tolerate, maintaining a sbp > 100
   - antibiotic coverage with zosyn and linezolid, zosyn for coverage of
   GU organisms, linazolid b/c the patient was colonized with VRE and
   concern for systemic spread with instrumentation
   - patient with white count of 26.9 with a peak of 29.7; pt. with h/o
   C.diff; empiric treatment with flagyl and po Vancomycin started
   yesterday, and stool sent for C. diff
   - renal u/s shows no hydronephrosis/pyelonephritis, stents are draining
   appropriately; urology following
   - f/u blood/urine cultures
   - continue to monitor UOP
   .
   ATRIAL FIBRILLATION: significantly improved rate control while on
   amiodarone infustion, with his HR ranging in the 70
s to 90
s. Once
   infusion stopped, HR significantly rose. 2.5 IV metoprolol appeared to
   have dropped his pressures significantly with MAPs in the 50s. Concern
   that this fast rate is decreasing perfusion to vital organs, including
   the heart (new inferior wall hypokinesis) and kidney (ATN?)
   - Consider adding back amio infusion as patient has not had the full 10
   gram load
can load in IV form.
   - If patient still not rate controlled, consider adding digoxin
   - will continue to hold patient
s home metoprolol in the setting of
   sepsis
   - Consider Cards consult if not able to control rate with medication,
   as patient may need to be cardioverted
   - Hold anticoagulation for now in setting of coagulopathy
   .
   ACUTE RENAL FAILURE: ATN most likely as patient is hypotensive
   - Acute bump in Cr to 5.2.
   - keyexelate for high k and serial ekgs
   - sevelmer for high phosphate
   - repeat lytes at noon
   - continue to monitor urine output
   - Renal following closely
   .
   ANION GAP ACIDOSIS: Gap of 21 this morning. High lactate of 3.9 and
   rising BUN likely metabolic acidosis with respiratory compensation.
   - 3 amps of bicarb in d5W for now.
   - repeat lytes at noon today
   .
   SOB: crackles at bases and patient dyspneic when sitting up. Likely
   related to volume resuscitation.  Also, worsening after drank juice
   this AM for low BS. Concern for aspiration as well.
   - CXR today
   - Lasix boluses prn to improve breathing
   .
   THROMBOCYTOPENIA/COAGULOPATHY: Rising INR and decreasing platelets.
   Fibrinogen high/normal (acute phase reactant) but higher than expected
   it would be if patient was in DIC
   - Hold heparin and send HIT antibody
   - trend coags, lfts and DIC panel
   - peripheral smear
   TRANSAMINITIS: likely a hit from his hypotension, not likely shock
   liver as enzymes are trending down.
   - monitor lfts
   - consider ultrasound for possible portal venous thrombosis in setting
   of coagulopathy
   ICU Care
   Nutrition: regular cardiac diet, but patient currently not eating
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-10-21**] 06:00 PM
   Multi Lumen - [**2127-10-21**] 06:15 PM
   Prophylaxis:
   DVT: SQ heparin d/c
d. pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR- patient will tolerate intubation as long as he is
   sedated for the intubation
   Disposition: ICU for now

2127-10-23 10:06:00 Physician Attending Progress Note
Chief Complaint: Hypotension, afib, acute renal failure, hyperkalemia,
   acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Echocardiogram showed new regional LV systolic dysfunction.
   Urine output decreased yesterday and patient given lasix with increased
   urine output, which has persisted this morning.
   Started on kayexalate for rising potassium.
   After amiodarone switched to oral dose started, HR rose again. Given
   beta blocker but BP then dropped farther. Patient on norepi and
   vasopressin.
   Platelets dropped yesterday. Heparin stopped and HIT workup initiated.
   INR also was up and patient was given vitamin K.
   Remains febrile. Significant bandemia yesterday with elevatd WBC.
   CVP 10 this morning.
   VBG 7.24/31/46
   Urine culture growing gram positive cocci
   24 Hour Events:
 ULTRASOUND - At [**2127-10-22**] 09:47 AM
   renal
 TRANS ESOPHAGEAL ECHO - At [**2127-10-22**] 09:47 AM
 FEVER - 101.6
F - [**2127-10-22**] 03:00 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-10-21**] 06:09 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-10-22**] 02:17 AM
   Metronidazole - [**2127-10-23**] 02:00 AM
   Piperacillin - [**2127-10-23**] 03:00 AM
   Vancomycin - [**2127-10-23**] 05:04 AM
   Linezolid - [**2127-10-23**] 07:29 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.16 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-10-22**] 08:00 PM
   Omeprazole (Prilosec) - [**2127-10-22**] 08:00 PM
   Furosemide (Lasix) - [**2127-10-22**] 09:30 PM
   Metoprolol - [**2127-10-23**] 01:20 AM
   Other medications:
   Linezolid, flagyl, amiodarone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-23**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.2
C (97.2
   HR: 123 (85 - 127) bpm
   BP: 113/70(81) {81/44(51) - 193/167(173)} mmHg
   RR: 26 (16 - 31) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.3 kg (admission): 90.1 kg
   CVP: 24 (6 - 305)mmHg
   Mixed Venous O2% Sat: 75 - 79
   Total In:
                                                                  5,767 mL
                                                                  1,722 mL
   PO:
                                                                     60 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  5,707 mL
                                                                  1,422 mL
   Blood products:
   Total out:
                                                                  1,370 mL
                                                                  1,195 mL
   Urine:
                                                                  1,370 mL
                                                                  1,195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,397 mL
                                                                    527 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///13/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Coarse bilaterally, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   90 K/uL
   56 mg/dL
   5.2 mg/dL
   13 mEq/L
   5.7 mEq/L
   81 mg/dL
   102 mEq/L
   136 mEq/L
   31.4 %
   26.9 K/uL
        [image002.jpg]
                             [**2127-10-21**]  01:55 PM
                             [**2127-10-21**]  05:21 PM
                             [**2127-10-22**]  01:30 AM
                             [**2127-10-22**]  03:52 AM
                             [**2127-10-22**]  10:14 AM
                             [**2127-10-22**]  01:15 PM
                             [**2127-10-22**]  05:33 PM
                             [**2127-10-23**]  12:45 AM
                             [**2127-10-23**]  05:01 AM
   WBC
   8.5
   29.7
   25.4
   25.6
   26.9
   Hct
   36.9
   32.9
   35.5
   33.3
   31.8
   31.4
   Plt
   [**Telephone/Fax (3) 10584**]0
   90
   Cr
   2.2
   3.7
   4.3
   4.6
   4.9
   5.2
   TropT
   0.02
   0.02
   0.03
   0.03
   0.03
   0.10
   TCO2
   19
   Glucose
   89
   82
   149
   101
   86
   70
   56
   Other labs: PT / PTT / INR:20.4/47.2/1.9, CK / CKMB /
   Troponin-T:1327/11/0.10, ALT / AST:58/124, Alk Phos / T Bili:33/2.8,
   Differential-Neuts:52.0 %, Band:24.0 %, Lymph:1.0 %, Mono:3.0 %,
   Eos:0.0 %, Fibrinogen:453 mg/dL, Lactic Acid:3.9 mmol/L, Albumin:3.2
   g/dL, LDH:476 IU/L, Ca++:7.2 mg/dL, Mg++:2.2 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 DELIRIUM / CONFUSION
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 .H/O ATRIAL FIBRILLATION (AFIB)
   THROMBOCYTOPENIA
   HYPERKALEMIA
   CHF, SYSTOLIC (ACUTE), DIASTOLIC (CHRONIC)
   ========================
   Patient remains hypotensive, although now on lower dose of norepi and
   urine output has increased after initial dose of lasix. Keep CVP 11-13
   if possible given the balance between BP and what appears to be CHF now
   on exam and CXR. Patient has combination of systolic and diastolic
   cardiac dysfunction. Will aim for negative total body fluid balance of
   [**1-16**].5L for the day. Attempt to wean dose of levophed further today.
   Creat continues to rise and metabolic acidosis, likely related to his
   renal failure, is worsening. His present respiratory distress is likely
   due in part to his attempts to compensate for this. Will give
   bicarbonate today (start with 3 amps in 1L of D5W). Patient also
   getting some calcium repletion (keeping eye on calcium-phosphate
   product). [**Location (un) **]-gel started for phosphate. Elevated potassium should be
   helped by correction of acidemia and increase in urine output.
   Platelet count down. Heparin being held. HIT workup started. Watching
   for DIC.
   Hct stable; no evidence of bleeding. Not at transfusion threhold.
   Continues on antibiotics for possible VRE and gram negative infection.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2127-10-21**] 06:00 PM
   Multi Lumen - [**2127-10-21**] 06:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: VAP not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2127-10-24 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - monitor for DIC
   - abdominal u/s: portal veins patent
   - HIT ab negative
   - goal to keep HR down, continue amiodarone gtt
   - goal to keep CVP 11-13
   - added [**1-17**] more amps of calcium gluconate
   - Fluids even to slightly negative b/c cr was rising and did not want
   to hit kidneys with more lasix and cause further damage.
   - ID: ? ct scan could possibly help. could broaden zosyn to meropenem
   if he decompensates per ID. nothing more to add
   - Gave 80 IV lasix b/c of pulmonary edema...breathing seemed a little
   better after. Put out about 200-400 cc after.
   - Nausea, wrote for prn zofran
   - increasing coughing/throat clearing, sputum cultured
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-10-21**] 06:09 PM
   Piperacillin - [**2127-10-23**] 10:00 AM
   Linezolid - [**2127-10-23**] 08:00 PM
   Vancomycin - [**2127-10-23**] 08:00 PM
   Metronidazole - [**2127-10-24**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2127-10-24**] 02:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2127-10-23**] 08:00 PM
   Furosemide (Lasix) - [**2127-10-23**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-24**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 112 (97 - 123) bpm
   BP: 100/67(75) {88/56(68) - 126/82(95)} mmHg
   RR: 25 (14 - 31) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.3 kg (admission): 90.1 kg
    CVP: 9 (9 - 24)mmHg
   Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                  4,061 mL
                                                                    499 mL
   PO:
                                                                    300 mL
   TF:
   IVF:
                                                                  3,761 mL
                                                                    499 mL
   Blood products:
   Total out:
                                                                  3,435 mL
                                                                  1,250 mL
   Urine:
                                                                  3,435 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    626 mL
                                                                   -751 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///15/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases, Wheezes : scattered, slight, Rhonchorous: some ronchi), fair
   air movement
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Cyanosis
   Skin:  Cool, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   49 K/uL
   9.4 g/dL
   90 mg/dL
   5.5 mg/dL
   17 mEq/L
   3.6 3.6mEq/L
   94 mg/dL
                                      94
                                     q/L
   133 mEq/L
   28.1 %
   23.6 K/uL
        [image002.jpg]
                             [**2127-10-22**]  01:30 AM
                             [**2127-10-22**]  03:52 AM
                             [**2127-10-22**]  10:14 AM
                             [**2127-10-22**]  01:15 PM
                             [**2127-10-22**]  05:33 PM
                             [**2127-10-23**]  12:45 AM
                             [**2127-10-23**]  05:01 AM
                             [**2127-10-23**]  12:19 PM
                             [**2127-10-23**]  06:26 PM
                             [**2127-10-24**]  03:37 AM
   WBC
   29.7
   25.4
   25.6
   26.9
   32.0
   27.4
   23.6
   Hct
   32.9
   35.5
   33.3
   31.8
   31.4
   31.7
   29.6
   28.1
   Plt
   163
   116
   90
   90
   73
   61
   49
   Cr
   3.7
   4.3
   4.6
   4.9
   5.2
   5.6
   5.6
   5.5
   TropT
   0.02
   0.03
   0.03
   0.03
   0.10
   Glucose
   149
   101
   86
   70
   56
   96
   100
   90
   Other labs:
   Ca: 6.7 Mg: 2.0 Phos: 7.0
   PT/INR: 17.2/1.5
   PTT: 36.9
   Fibrinogen: 551
   ALT/AST: 43/87
   AP: 43
   LDH: 414
   T. Bili: 3.7
   Assessment and Plan
   This is a 69 year old man with transitional cell bladder cancer
   diagnosed in [**2126-10-16**], s/p neobladder and multiple procedures for
   ureteral function after the neobladder, including recent ureteral stent
   swap in the OR; currently in [**Hospital Unit Name 1**] for afib with rvr and septic shock
   with multi-organ dysfunction.
   .
   HYPOTENSION/SEPSIS: Continues to have pressor requirements which are
   decreasing to maintain appropriate MAPs, also tachycardia is improving
   with continued amiodarone infusion,
   Multifactorial:
   1.  Cardiogenic in part: RVR leading to inadequate filling times and
   afib causing loss of atrial kick leading to decreased stroke volume
   also  cardiac ischemia concerning for decreased cardiac output due to
   myocardial injury  as echo shows new inferior wall hypokinesis.
   Difficulty maintaining adequate fluid balance, due to likely diastolic
   dysfunction and rapidly increasing CVP
s with small fluid  boluses.
   2. Sepsis: Also  likely infection and sepsis leading to probable low
   PVR and effective intravascular hypovolemia; although CVP of 15 this
   AM. Patient appears intravascularly depleted as he has previously had a
   low CVP.
   - Difficult fluid status as paitent appears intravascularly down yet
   cardiac function is decreased leading to a component of pulmonary
   edema, today his respiratroy status is improved, with decreased oxygen
   requirements.
   - check CVP to eval volume status with a goal of [**11-28**] and diurese or
   bolus as needed.
   - Wean down pressors as patient can tolerate, maintaining a sbp > 100.
   levophed is down to 0.1
   - antibiotic coverage with zosyn and linezolid, zosyn for coverage of
   GU organisms, linazolid b/c the patient was colonized with VRE and
   concern for systemic spread with instrumentation, will d/w ID about
   possible d/c of linezolid with negative cultures and decreasing
   platelet counts
   - patient with decreasing leukocytosis, currently on empiric treatment
   for C. diff with IV flagyl and po vancomycin, first stool was negative
   for C. diff, will discuss treatment with ID
   - renal u/s shows no hydronephrosis/pyelonephritis, stents are draining
   appropriately; urology following
   - f/u blood/urine cultures
urine cx positive for strep viridans, no
   other cultures positive to date
   - continue to monitor UOP, consider IV lasix for decreased UOP
   .
   ATRIAL FIBRILLATION: significantly improved rate control while on
   amiodarone infusion, with his HR ranging in the 70
s to 90
s. Once
   infusion stopped, HR significantly rose with amiodarone 200mg po BID.
   2.5 IV metoprolol appeared to have dropped his pressures significantly
   with MAPs in the 50s. After talking with pharmacy when he is
   transitioned to po, he needs to be on 400mg po TID for the first 7
   days.
   - Yesterday rebolused the patient 150mg and restarted infusion with
   improvement in his HR to 80 to 100
   - Keep track of total amount patient has received of 10g load
   - will continue to hold patient
s home metoprolol in the setting of
   sepsis
   - Hold anticoagulation for now in setting of coagulopathy
   .
   ACUTE RENAL FAILURE: ATN most likely due to hypotension
   - Cr appears to have stabilized, and has hopefully plateaued
   - K has normalized, will continue to monitor and hold kayexelate for
   now
   - sevelmer for high phosphate, which has improved
   - repeat lytes this afternoon
   - continue to monitor urine output
   - Renal following closely
   .
   ANION GAP ACIDOSIS: Gap of 21 this morning. High lactate of 3.9 and
   rising BUN likely metabolic acidosis with respiratory compensation.
   - Patient received 4.5 amps of bicarb o/n, with improvement in HCO3 to
   17, will continue to monitor-no further bicarb for now, will continue
   to monitor
   - repeat lytes this afternoon
   .
   SOB: crackles at bases but with improved dyspnea. Likely related to
   volume resuscitation.  Also, worsening after drank juice this AM for
   low BS. Concern for aspiration as well.
   - CXR shows continued volume overload
   - Lasix boluses prn to improve breathing
   .
   THROMBOCYTOPENIA/COAGULOPATHY: Rising INR and decreasing platelets.
   Fibrinogen high/normal (acute phase reactant) but higher than expected
   it would be if patient was in DIC
   - HIT antibody negative, but since platelets are below 50,000 will hold
   SQ heparin for PPX
   - trend coags, lfts and DIC panel-negative so far
   TRANSAMINITIS: likely a hit from his hypotension, not likely shock
   liver as enzymes are trending down.
   - monitor lfts
   - ultrasound showed patency of portal vessels
   ICU Care
   Nutrition: Cardiac Diet, but patient mostly taking clears
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-10-21**] 06:00 PM
   Multi Lumen - [**2127-10-21**] 06:15 PM
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI-willing to be intubated if he is sedated
   Disposition: ICU

2127-10-24 12:00:00 Physician Attending Progress Note
Chief Complaint: Hypotension, acute renal failure, afib, diastolic CHF,
   acidosis, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hemodynamically improved in that dose of levophed is lower. Still on
   vasopressin. Urine output has increased overnight with lasix.  Heart
   rate better controlled on amiodarone infusion. CVP 9 this morning.
   Oxygenation remains good on minimal supplemental O2.
   Received about 4.5 amps of sodium bicarb yesterday for metabolic
   acidosis.
   Continue to require calcium repletion.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-10-21**] 06:09 PM
   Piperacillin - [**2127-10-23**] 10:00 AM
   Linezolid - [**2127-10-23**] 08:00 PM
   Vancomycin - [**2127-10-23**] 08:00 PM
   Metronidazole - [**2127-10-24**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2127-10-24**] 02:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2127-10-23**] 08:00 PM
   Furosemide (Lasix) - [**2127-10-23**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-24**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 105 (97 - 115) bpm
   BP: 107/73(77) {88/56(68) - 126/82(95)} mmHg
   RR: 20 (14 - 31) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.3 kg (admission): 90.1 kg
   Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                  4,161 mL
                                                                  1,098 mL
   PO:
                                                                    300 mL
   TF:
   IVF:
                                                                  3,861 mL
                                                                  1,098 mL
   Blood products:
   Total out:
                                                                  3,435 mL
                                                                  1,970 mL
   Urine:
                                                                  3,435 mL
                                                                  1,970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    726 mL
                                                                   -872 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Crackles : Coarse, bibasilar, No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   49 K/uL
   90 mg/dL
   5.5 mg/dL
   17 mEq/L
   3.6 mEq/L
   94 mg/dL
   94 mEq/L
   133 mEq/L
   28.1 %
   23.6 K/uL
        [image002.jpg]
                             [**2127-10-22**]  01:30 AM
                             [**2127-10-22**]  03:52 AM
                             [**2127-10-22**]  10:14 AM
                             [**2127-10-22**]  01:15 PM
                             [**2127-10-22**]  05:33 PM
                             [**2127-10-23**]  12:45 AM
                             [**2127-10-23**]  05:01 AM
                             [**2127-10-23**]  12:19 PM
                             [**2127-10-23**]  06:26 PM
                             [**2127-10-24**]  03:37 AM
   WBC
   29.7
   25.4
   25.6
   26.9
   32.0
   27.4
   23.6
   Hct
   32.9
   35.5
   33.3
   31.8
   31.4
   31.7
   29.6
   28.1
   Plt
   163
   116
   90
   90
   73
   61
   49
   Cr
   3.7
   4.3
   4.6
   4.9
   5.2
   5.6
   5.6
   5.5
   TropT
   0.02
   0.03
   0.03
   0.03
   0.10
   Glucose
   149
   101
   86
   70
   56
   96
   100
   90
   Other labs: PT / PTT / INR:17.2/36.9/1.5, CK / CKMB /
   Troponin-T:1327/11/0.10, ALT / AST:43/87, Alk Phos / T Bili:43/3.7,
   Differential-Neuts:90.0 %, Band:2.0 %, Lymph:2.0 %, Mono:5.0 %, Eos:0.0
   %, Fibrinogen:551 mg/dL, Lactic Acid:3.9 mmol/L, Albumin:3.2 g/dL,
   LDH:414 IU/L, Ca++:6.7 mg/dL, Mg++:2.0 mg/dL, PO4:7.0 mg/dL
   Fluid analysis / Other labs: HIT negative
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 DELIRIUM / CONFUSION
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 .H/O ATRIAL FIBRILLATION (AFIB)
   ATRIAL FIBRILLATION
   ANEMIA
   ==========================
   Patient is somewhat better today. Dose of levophed being reduced. Rate
   of rise of creat may be slowing. Urine output increasing; may be seeing
   the beginning of a post-ATN diuresis. HR better controlled. Afebrile in
   the past 24 hours. Continue present antibiotics. Continue to wean
   levophed as tolerated. Would maintain vasopressin for 24 hours after
   levophed stopped.
   HR improved on amiodarone. Complete load.
   Mental status much improved today.
   Hct stable. No evidence of active bleeding. Not at transfusion
   threshold. Platelets continue to fall; HIT negative.
   Repleting electrolytes. Give more potassium before anymore bicarb
   given.
   ICU Care
   Nutrition: oral
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-10-21**] 06:00 PM
   Multi Lumen - [**2127-10-21**] 06:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: VAP protocol not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2127-10-25 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -continued amio infusion b/c he tolerates much better, if he is
   transitioned to po amio, should start at 400mg TID
   -HCO3 increasing, so did not give futher bicarb, if needs more bicarb
   make sure to replete with K
   -started calcium po to replete Ca
   -pt looks much better, OOB x 2 today, consulted PT
   -d/c'd linezolid due to thrombocytopenia
   -levophed titrated down to 0.03
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2127-10-23**] 10:00 AM
   Linezolid - [**2127-10-24**] 08:05 AM
   Metronidazole - [**2127-10-25**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2127-10-25**] 02:00 AM
   Vancomycin - [**2127-10-25**] 04:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2127-10-24**] 08:00 PM
   Morphine Sulfate - [**2127-10-25**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-25**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.3
   HR: 95 (95 - 111) bpm
   BP: 103/74(81) {83/55(62) - 135/78(94)} mmHg
   RR: 12 (12 - 24) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.3 kg (admission): 90.1 kg
   Height: 69 Inch
    CVP: 10 (6 - 337)mmHg
   Total In:
                                                                  2,553 mL
                                                                    645 mL
   PO:
                                                                    120 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  2,433 mL
                                                                    465 mL
   Blood products:
   Total out:
                                                                  4,400 mL
                                                                  1,000 mL
   Urine:
                                                                  4,400 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,847 mL
                                                                   -355 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases, Wheezes : scattered, fair air movement
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Cyanosis
   Skin:  warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   32 K/uL
   9.2 g/dL
   90 mg/dL
   5.7 mg/dL
   20 mEq/L
   3.2 mEq/L
   103 mg/dL
   92 mEq/L
   132 mEq/L
   27.0 %
   19.0 K/uL
        [image002.jpg]
                             [**2127-10-22**]  10:14 AM
                             [**2127-10-22**]  01:15 PM
                             [**2127-10-22**]  05:33 PM
                             [**2127-10-23**]  12:45 AM
                             [**2127-10-23**]  05:01 AM
                             [**2127-10-23**]  12:19 PM
                             [**2127-10-23**]  06:26 PM
                             [**2127-10-24**]  03:37 AM
                             [**2127-10-24**]  03:44 PM
                            [**2127-10-25**]  05:20 AM
   WBC
   25.4
   25.6
   26.9
   32.0
   27.4
   23.6
   19.0
   Hct
   33.3
   31.8
   31.4
   31.7
   29.6
   28.1
   27.0
   Plt
   116
   90
   90
   73
   61
   49
   32
   Cr
   4.3
   4.6
   4.9
   5.2
   5.6
   5.6
   5.5
   5.8
   5.7
   TropT
   0.03
   0.03
   0.10
   Glucose
   101
   86
   70
   56
   96
   100
   90
   99
   90
   Other labs: PT / PTT / INR:15.2/36.6/1.3, CK / CKMB /
   Troponin-T:1327/11/0.10, ALT / AST:33/63, Alk Phos / T Bili:68/4.1,
   Differential-Neuts:90.0 %, Band:2.0 %, Lymph:2.0 %, Mono:5.0 %, Eos:0.0
   %, Fibrinogen:551 mg/dL, Lactic Acid:3.9 mmol/L, Albumin:3.2 g/dL,
   LDH:414 IU/L, Ca++:6.8 mg/dL, Mg++:2.1 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
   This is a 69 year old man with transitional cell bladder cancer
   diagnosed in [**2126-10-16**], s/p neobladder and multiple procedures for
   ureteral function after the neobladder, including recent ureteral stent
   swap in the OR; currently in [**Hospital Unit Name 1**] for afib with rvr and septic shock
   with multi-organ dysfunction.
   .
   HYPOTENSION/SEPSIS: Continues to have pressor requirements which are
   decreasing to maintain appropriate MAPs, also tachycardia is improving
   with continued amiodarone infusion,
   Multifactorial:
   1.  Cardiogenic in part: RVR leading to inadequate filling times and
   afib causing loss of atrial kick leading to decreased stroke volume
   also  cardiac ischemia concerning for decreased cardiac output due to
   myocardial injury  as echo shows new inferior wall hypokinesis.
   Difficulty maintaining adequate fluid balance, due to likely diastolic
   dysfunction and rapidly increasing CVP
s with small fluid  boluses.
   2. Sepsis: Also likely infection and sepsis leading to probable low PVR
   and effective intravascular hypovolemia; although CVP of 15 this AM.
   Patient appears intravascularly depleted as he has previously had a low
   CVP.
   - Difficult fluid status as paitent appears slightly intravascularly
   down yet cardiac function is decreased leading to a component of
   pulmonary edema, today his respiratroy status is improved, with
   decreased oxygen requirements.
   - check CVP to eval volume status with a goal of [**11-28**] and diurese or
   bolus as needed.
   - Wean down pressors as patient can tolerate, maintaining a sbp > 100.
   levophed is down to 0.03
   - antibiotic coverage with zosyn for coverage of GU organisms, and it
   will cover strep viridans which is growing in his urine
   - patient with decreasing leukocytosis, currently on empiric treatment
   for C. diff with IV flagyl and po vancomycin, first stool was negative
   for C. diff, if second C.diff is negative will d/c flagy and po
   vancomycin
   - renal u/s shows no hydronephrosis/pyelonephritis, stents are draining
   appropriately; urology following, appreciate recs
   - f/u blood/urine cultures
urine cx positive for strep viridans, no
   other cultures positive to date
   - continue to monitor UOP, consider IV lasix for decreased UOP
   .
   ATRIAL FIBRILLATION: significantly improved rate control while on
   amiodarone infusion, with his HR ranging in the 70
s to 90
s. Once
   infusion stopped, HR significantly rose with amiodarone 200mg po BID.
   2.5 IV metoprolol appeared to have dropped his pressures significantly
   with MAPs in the 50s. After talking with pharmacy when he is
   transitioned to po, he needs to be on 400mg po TID for the first 7
   days.
   - Stop IV amiodarone and convert to po amio at 400mg TID
   - Keep track of total amount patient has received of 10g load
   - will continue to hold patient
s home metoprolol in the setting of
   sepsis
   - Hold anticoagulation for now in setting of coagulopathy
   .
   ACUTE RENAL FAILURE: ATN most likely due to hypotension
   - Cr appears to have stabilized, and has hopefully plateaued
   - K has normalized, will continue to monitor and hold kayexelate for
   now
   - sevelmer for high phosphate, which has improved
   - repeat lytes this afternoon
   - continue to monitor urine output
   - Renal following closely
   .
   ANION GAP ACIDOSIS: Gap of 20 this morning. High lactate of 3.9
   previously and rising BUN likely metabolic acidosis with respiratory
   compensation.
   - Bicarb has been stable at 20, will hold further bicarb administration
   for now but will recheck lactate level this afternoon to make sure that
   it is decreasing
   - repeat lytes this afternoon
   .
   SOB: crackles at bases but with improved dyspnea. Likely related to
   volume resuscitation.
   - CXR shows continued volume overload
   - Lasix boluses prn to improve breathing
   .
   THROMBOCYTOPENIA/COAGULOPATHY: Rising INR and decreasing platelets.
   Fibrinogen high/normal (acute phase reactant) but higher than expected
   it would be if patient was in DIC
   - HIT antibody negative, but since platelets are below 50,000 will hold
   SQ heparin for PPX
   - trend coags, lfts and DIC panel-negative so far
   TRANSAMINITIS: likely a hit from his hypotension, not likely shock
   liver as enzymes are trending down.
   - monitor lfts
   - ultrasound showed patency of portal vessels
   ICU Care
   Nutrition: Cardiac, Renal Diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-21**] 06:15 PM
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer: omeprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / but will tolerate intubation
   Disposition: ICU for now
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient , reviewed his history and hospital
   course and was present for the key portions of the services provided. I
   have also reviewed Dr [**Last Name (STitle) 10627**]
s note and agree with her findings and
   plan of care. The patient is improved on Rx for septic shock from what
   we believe is strep urinary infection. He feels better, WBC is down and
   pressor requirement is less.  His course has been complicated by renal
   failure,  Afib with RVR and rate related myocardial injury.  He
s still
   fluid overloaded on CxR and is producing dark culture neg but purulent
   sputum. A mild anion gap acidosis, felt due to his renal failure,
   persists unchanged.
   The plan today is to attempt to wean pressors, change Amio to oral,
   stop CDiff RX if neg stool x2, continue Zosyn for his sepsis,, attempt
   to make him 1L neg, follow lactate & lytes, keep close eye on plts now
   that he
s off Linezolid,  and reassess CXR in am.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   40 min spent in the care of this critically ill patient
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2127-10-25**] 14:35 ------

2127-10-26 06:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - transition to po amiodarone --> need to calculate total loading dose
   - goal I/O:  -1L for day --> (he is about -1L by 9:30am and net -2L by
   1500) --> gave 500ccs NS for BP and CVP 10
   - cardiac goal in setting of having had trop leak: avoid hypotension
   and tachycardia which would further strain his heart
   - goal: weaning levophed: stopped on
   - pt was upset half hour later bc was told by doctors previously that
   [**Name5 (PTitle) **] could get morphine to sleep and states it was given to him for the
   past few days... I had long discussion w him about how i was not
   holding off on morphine to cause problems-- i was legitimately
   concerned about his BP (on 2 pressors), and i explained that the
   morphine is a pain med not to be used for sleep but i was very
   concerned about controlling his pain and maintaining his BPs;  because
   he stated that he was "in pain" at that time i gave him 1mg morphine IV
   x1
   - switched him from IV morphine to PO oxycodone for pain + standing
   tylenol (only 650mg TID)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2127-10-23**] 10:00 AM
   Linezolid - [**2127-10-24**] 08:05 AM
   Vancomycin - [**2127-10-25**] 04:00 AM
   Metronidazole - [**2127-10-26**] 02:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2127-10-26**] 02:15 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2127-10-25**] 11:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-26**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 77 (75 - 95) bpm
   BP: 102/60(72) {74/26(47) - 120/77(86)} mmHg
   RR: 14 (11 - 18) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.3 kg (admission): 90.1 kg
   Height: 69 Inch
    CVP: 9 (5 - 20)mmHg
   Total In:
                                                                  1,869 mL
                                                                    332 mL
   PO:
                                                                    180 mL
   TF:
   IVF:
                                                                  1,689 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                  4,530 mL
                                                                  1,000 mL
   Urine:
                                                                  4,530 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,661 mL
                                                                   -668 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   VBG: 7.32/45/41
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases, Wheezes : scattered, fair air movement
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Cyanosis
   Skin:  warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   32 K/uL
   9.6 g/dL
   95 mg/dL
   5.4 mg/dL
   21 mEq/L
   3.3 mEq/L
   112 mg/dL
   93 mEq/L
   133 mEq/L
   28.5 %
   13.4 K/uL
        [image002.jpg]
                             [**2127-10-22**]  05:33 PM
                             [**2127-10-23**]  12:45 AM
                             [**2127-10-23**]  05:01 AM
                             [**2127-10-23**]  12:19 PM
                             [**2127-10-23**]  06:26 PM
                             [**2127-10-24**]  03:37 AM
                             [**2127-10-24**]  03:44 PM
                            [**2127-10-25**]  05:20 AM
                            [**2127-10-25**]  02:41 PM
                            [**2127-10-26**]  03:37 AM
   WBC
   25.4
   25.6
   26.9
   32.0
   27.4
   23.6
   19.0
   13.4
   Hct
   33.3
   31.8
   31.4
   31.7
   29.6
   28.1
   27.0
   28.5
   Plt
   116
   90
   90
   73
   61
   49
   32
   32
   Cr
   4.6
   4.9
   5.2
   5.6
   5.6
   5.5
   5.8
   5.7
   5.7
   5.4
   TropT
   0.10
   Glucose
   86
   70
   56
   96
   100
   90
   99
   90
   96
   95
   Other labs: PT / PTT / INR:14.8/30.0/1.3, ALT / AST:25(33) /41(63), Alk
   Phos / T Bili:84 (68)/2.9 (4.1), Fibrinogen:612 mg/dL, Lactic Acid:1.7
   mmol/L, Albumin:3.2 g/dL, LDH:303 IU/L, Ca++:7.2 mg/dL, Mg++:2.2 mg/dL,
   PO4:6.0 mg/dL; Free Ca: 0.96;
   Micro: C. diff negative x 2
   All other cultures: NGTD
   Radiology: CXR: Pulmonary edema
   Assessment and Plan
   This is a 69 year old man with transitional cell bladder cancer
   diagnosed in [**2126-10-16**], s/p neobladder and multiple procedures for
   ureteral function after the neobladder, including recent ureteral stent
   swap in the OR; currently in [**Hospital Unit Name 1**] for afib with rvr and septic shock
   with multi-organ dysfunction.
   .
   HYPOTENSION/SEPSIS: Continues to have pressor requirements which are
   decreasing to maintain appropriate MAPs, also tachycardia is improving
   with amiodarone.,
   Multifactorial:
   1.  Cardiogenic in part: RVR leading to inadequate filling times and
   afib causing loss of atrial kick leading to decreased stroke volume
   also  cardiac ischemia concerning for decreased cardiac output due to
   myocardial injury  as echo shows new inferior wall hypokinesis.
   Difficulty maintaining adequate fluid balance, due to likely diastolic
   dysfunction and rapidly increasing CVP
s with small fluid  boluses.
   2. Sepsis: Also likely infection and sepsis leading to probable low PVR
   and effective intravascular hypovolemia; although CVP of 15 this AM.
   Patient appears intravascularly depleted as he has previously had a low
   CVP.
   - Difficult fluid status as patient appears slightly intravascularly
   down yet cardiac function is decreased leading to a component of
   pulmonary edema, today his respiratroy status is improved, with
   decreased oxygen requirements.
   - check CVP to eval volume status with a goal of [**11-28**] and diurese or
   bolus as needed.
   - Wean down pressors as patient can tolerate, maintaining a sbp > 100.
   levophed turned off at 0730 this AM and tolerating well.
   - antibiotic coverage with zosyn (Start date: [**10-22**], Day [**4-25**]) for
   coverage of GU organisms, and it will cover strep viridans which is
   growing in his urine; will d/w ID duration of course zosyn.
   - patient with decreasing leukocytosis, currently on empiric treatment
   for C. diff with IV flagyl and po vancomycin, 2 C. diff toxins
   negative: consider d/c
ing po vanc and flagyl today after third set
   negative. (Start date: [**10-22**])
   - renal u/s shows no hydronephrosis/pyelonephritis, stents are draining
   appropriately; urology following, appreciate recs
   - f/u blood/urine cultures
urine cx positive for strep viridans, no
   other cultures positive to date
   - continue to monitor UOP, consider IV lasix for decreased UOP
   - Patient diuresed well in past 24 hours, breathing well, but since
   still dependent on pressors, will make patient even to +500 cc in next
   24 hours.
   - Cortisol level
   .
   ATRIAL FIBRILLATION: significantly improved rate control while on
   amiodarone infusion, with his HR ranging in the 70
s to 90
s. Once
   infusion stopped, HR significantly rose with amiodarone 200mg po BID.
   2.5 IV metoprolol appeared to have dropped his pressures significantly
   with MAPs in the 50s. After talking with pharmacy when he is
   transitioned to po, he needs to be on 400mg po TID for the first 7
   days.
   - Continue po amio at 400mg TID for 1 week
   - Keep track of total amount patient has received of 10g load
   - will continue to hold patient
s home metoprolol in the setting of
   sepsis
   - Hold anticoagulation for now in setting of coagulopathy
   .
   ACUTE RENAL FAILURE: ATN most likely due to hypotension
   - Cr continueing to trend down, continue to monitor
   - K has normalized, will continue to monitor and hold kayexelate for
   now
   - sevelmer for high phosphate, which has improved
   - repeat lytes this afternoon
   - continue to monitor urine output
   - Renal following closely
   .
   ANION GAP ACIDOSIS: Gap of 19 this morning. Lactate continuing to
   improve with normal level of 1.7 this AM, with rising BUN likely
   metabolic acidosis with respiratory compensation.
   - Bicarb has been stable at 21, will hold further bicarb administration
   for now at this level
   - repeat lytes this afternoon
   - Monitor mental status with rising BUN; likely a component of
   dehydration.
   - renal following
   .
   SOB: crackles at bases but with improved dyspnea. Likely related to
   volume resuscitation.
   - CXR shows continued volume overload
   - Lasix boluses prn to improve breathing
   .
   THROMBOCYTOPENIA/COAGULOPATHY: Rising INR and decreasing platelets.
   Fibrinogen high/normal (acute phase reactant) but higher than expected
   it would be if patient was in DIC
   - HIT antibody negative, but since platelets are below 50,000 will hold
   SQ heparin for PPX
   - trend coags, lfts and DIC panel-negative so far
   - Monitor for signs of active bleeding;
   - Urology is aware of hemarturia and feel this is expected s/p
   procedure. The will continue to monitor
   TRANSAMINITIS: likely a hit from his hypotension, not likely shock
   liver as enzymes are trending down.
   - monitor lfts
   - ultrasound showed patency of portal vessels
   ICU Care
   Nutrition: Cardiac, Renal Diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-21**] 06:15 PM
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer: omeprazole
   VAP:
   Comments:
   Communication:  Comments:  Patient
   Code status: DNR / but will tolerate intubation
   Disposition: ICU for now
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient, reviewed his hospital course and
   labs and imaging, and was present for the key portions of the services
   provided. I have reviewed Dr [**Last Name (STitle) 10611**]
s note and agree with her
   findings and plan of care.  The patient continues to look well and
   today is even off of Levophed. He remains of vasopressin.  He looks a
   bit dry on exam, by CXR, and by CVP. So we will make him I/O positive
   today, in the hope that this may allow weaning off of Vasopressin. Most
   of his other issues are stable, with improvement in renal function,
   WBC, Bili, and [**2-18**] C diff studies neg.  He
s tolerating po Amio with
   good Afib rate control.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2127-10-26**] 16:06 ------

2127-10-27 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Goal of + 500 cc today; at [**2118**] he was negative -1.5 liters; gave one
   bolus of 1 liter LR b/c patient is still on vasopressin and being so
   negative doesn't help his bp requirements.
   -Gave 1 mg of morphine overnight for pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2127-10-24**] 08:05 AM
   Vancomycin - [**2127-10-25**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2127-10-27**] 02:30 AM
   Metronidazole - [**2127-10-27**] 03:00 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2127-10-26**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-27**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.5
C (95.9
   Tcurrent: 35
C (95
   HR: 72 (65 - 85) bpm
   BP: 94/61(69) {81/50(51) - 120/71(83)} mmHg
   RR: 11 (9 - 19) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.3 kg (admission): 90.1 kg
   Height: 69 Inch
    CVP: 8 (6 - 191)mmHg
   Total In:
                                                                  2,607 mL
                                                                  1,220 mL
   PO:
   TF:
   IVF:
                                                                  2,607 mL
                                                                  1,220 mL
   Blood products:
   Total out:
                                                                  3,390 mL
                                                                  1,130 mL
   Urine:
                                                                  3,390 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -783 mL
                                                                     90 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases, Wheezes : scattered, fair air movement
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Cyanosis
   Skin:  warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   36 K/uL
   9.2 g/dL
   70 mg/dL
   5.2 mg/dL
   21 mEq/L
   3.4 mEq/L
   117 mg/dL
   103 mEq/L
   139 mEq/L
   27.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2127-10-23**]  05:01 AM
                             [**2127-10-23**]  12:19 PM
                             [**2127-10-23**]  06:26 PM
                             [**2127-10-24**]  03:37 AM
                             [**2127-10-24**]  03:44 PM
                            [**2127-10-25**]  05:20 AM
                            [**2127-10-25**]  02:41 PM
                            [**2127-10-26**]  03:37 AM
                            [**2127-10-26**]  06:22 PM
                            [**2127-10-27**]  04:22 AM
   WBC
   26.9
   32.0
   27.4
   23.6
   19.0
   13.4
   7.3
   Hct
   31.4
   31.7
   29.6
   28.1
   27.0
   28.5
   27.3
   Plt
   90
   73
   61
   49
   32
   32
   36
   Cr
   5.2
   5.6
   5.6
   5.5
   5.8
   5.7
   5.7
   5.4
   5.5
   5.2
   Glucose
   56
   96
   100
   90
   99
   90
   96
   95
   116
   70
   Other labs: PT / PTT / INR:14.8/30.0/1.3, CK / CKMB /
   Troponin-T:1327/11/0.10, ALT / AST:19/27, Alk Phos / T Bili:83/2.2,
   Differential-Neuts:90.0 %, Band:2.0 %, Lymph:2.0 %, Mono:5.0 %, Eos:0.0
   %, Fibrinogen:612 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:3.2 g/dL,
   LDH:303 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   This is a 69 year old man with transitional cell bladder cancer
   diagnosed in [**2126-10-16**], s/p neobladder and multiple procedures for
   ureteral function after the neobladder, including recent ureteral stent
   swap in the OR; currently in [**Hospital Unit Name 1**] for afib with rvr and septic shock
   with multi-organ dysfunction.
   .
   HYPOTENSION/SEPSIS: Patient currently off all pressors and able to
   maintain appropriate MAPs, also tachycardia is improving with
   amiodarone, patient transitioned to po amiodarone with good rate
   control
   Multifactorial:
   1.  Cardiogenic in part: RVR leading to inadequate filling times and
   afib causing loss of atrial kick leading to decreased stroke volume
   also  cardiac ischemia concerning for decreased cardiac output due to
   myocardial injury  as echo shows new inferior wall hypokinesis.
   Difficulty maintaining adequate fluid balance, due to likely diastolic
   dysfunction and rapidly increasing CVP
s with small fluid  boluses.
   2. Sepsis: Also likely infection and sepsis leading to probable low PVR
   and effective intravascular hypovolemia; although CVP of 15 this AM.
   Patient appears intravascularly depleted as he has previously had a low
   CVP.
   - Difficult fluid status as patient appears slightly intravascularly
   down yet cardiac function is decreased leading to a component of
   pulmonary edema, today his respiratroy status is improved, with
   decreased oxygen requirements.
   - check CVP to eval volume status with a goal of [**11-28**] and diurese or
   bolus as needed.
   - Wean down pressors as patient can tolerate, maintaining a sbp > 100.
   levophed turned off at 0730 this AM and tolerating well.
   - antibiotic coverage with zosyn (Start date: [**10-22**], Day [**6-22**]), will
   discontinue zosyn tomorrow as per ID
   - patient with decreasing leukocytosis, currently on empiric treatment
   for C. diff with IV flagyl and po vancomycin, 2 C. diff toxins
   negative: will d/c IV flagyl but continue po vanc for 2 days post
   discontinuation of zosyn given significant history of C.diff
   - renal u/s shows no hydronephrosis/pyelonephritis, stents are draining
   appropriately; urology following, appreciate recs
   - f/u blood/urine cultures
urine cx positive for strep viridans, no
   other cultures positive to date
   - continue to monitor UOP, patient putting out large amounts of urine,
   will monitor output and patient may need IV fluids to make up
   difference in output
   - Cortisol level high
   .
   ATRIAL FIBRILLATION: significantly improved rate control while on
   amiodarone infusion, with his HR ranging in the 70
s to 90
s. Once
   infusion stopped, HR significantly rose with amiodarone 200mg po BID.
   2.5 IV metoprolol appeared to have dropped his pressures significantly
   with MAPs in the 50s. After talking with pharmacy when he is
   transitioned to po, he needs to be on 400mg po TID for the first 7
   days.
   - Continue po amio at 400mg TID for 1 week
   - Keep track of total amount patient has received of 10g load
   - will continue to hold patient
s home metoprolol in the setting of
   sepsis
   - Hold anticoagulation for now in setting of coagulopathy
   .
   ACUTE RENAL FAILURE: ATN most likely due to hypotension-patient
   currently [**Last Name (LF) 7633**], [**First Name3 (LF) **] monitor I/O with a goal of keeping the
   patient even, to help maintain his BP and keep his off pressors
   - Cr continuing to trend down, continue to monitor
   - K has normalized, will continue to monitor and hold kayexelate for
   now
   - discontinue sevelmer given improvement in phosphorous
   - repeat lytes this afternoon
   - continue to monitor urine output
   - Renal following closely
   .
   ANION GAP ACIDOSIS: Gap of 15 this morning. Lactate continuing to
   improve with normal level of 1.7 yesterday, with rising BUN likely
   metabolic acidosis with respiratory compensation.
   - Bicarb has been stable at 21, will hold further bicarb administration
   for now at this level
   - Monitor mental status with rising BUN; likely a component of
   dehydration.
   - renal following, appreciate recs
   .
   SOB: crackles at bases but with improved dyspnea. Likely related to
   volume resuscitation.  Oxygenation improved today, not currently on
   supplemental oxygen
   - CXR shows continued volume overload
   - patient currently self diuresing, so will hold lasix for now
   .
   THROMBOCYTOPENIA/COAGULOPATHY: Platelets have stabilized and INR is
   improving
   - HIT antibody negative, but since platelets are below 50,000 will hold
   SQ heparin for PPX
   - DIC panel-negative so far
   - Monitor for signs of active bleeding; currently stable
   - Urology is aware of hemarturia and feel this is expected s/p
   procedure. The will continue to monitor
   TRANSAMINITIS: likely a hit from his hypotension, not shock liver as
   enzymes are trending down.
   - monitor lfts
   - ultrasound showed patency of portal vessels
   ICU Care
   Nutrition: Cardiac, Renal Diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-21**] 06:15 PM
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer: Omeprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / will tolerate intubation
   Disposition: ICU, possible call out tomorrow
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient, reviewed his hospital course and
   labs, and was present for the key portions of the services provided. I
   have reviewed Dr [**Last Name (STitle) 10627**]
s note and agree with her findings and plan of
   care. Regarding his strep viridans urosepsis, Mr [**Known lastname 5654**] has done well
   and is now off all pressors with good BP and nl WBC.  As per ID, he
   need to stay on C diff prophylaxis with po Vanco until a couple days
   after stopping Zosyn, but we
ll stop Flagyl today.   He feels good, is
   eager to be up in a chair, is taking po
s, and seems clinically
   euvolemic and hemodynamically stable on his amiodarone. He is still in
   a post ATN diuresis phase and we
ll aim to match his urine outputs for
   now and replete lytes.  He is finally well enough to be called out to
   the floor.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2127-10-27**] 14:09 ------

2127-10-28 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - discussed amio dosing with pharmacy.  As of [**10-27**] at 1200 hrs had
   received 6110 mg (3510 mg IV and 2600 mg PO)
   - patient still off all pressors, I/O goal to be even for, have been
   giving some IVF due to large volume urine output
   - ID: PO vanc stops in 2 days and zosyn 7 day course stops today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2127-10-27**] 10:09 AM
   Vancomycin - [**2127-10-27**] 11:36 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-10-28**] 01:55 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2127-10-28**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-28**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 71 (62 - 85) bpm
   BP: 112/68(79) {81/47(44) - 112/75(81)} mmHg
   RR: 17 (9 - 17) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.3 kg (admission): 90.1 kg
   Height: 69 Inch
    CVP: 6 (6 - 7)mmHg
   Total In:
                                                                  3,100 mL
                                                                    115 mL
   PO:
                                                                    960 mL
   TF:
   IVF:
                                                                  2,140 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                  1,120 mL
   Urine:
                                                                  3,210 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -110 mL
                                                                 -1,005 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases, Wheezes : scattered, fair air movement
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Cyanosis
   Skin:  warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   48 K/uL
   9.4 g/dL
   70 mg/dL
   5.1 mg/dL
   20 mEq/L
   3.5 mEq/L
   112 mg/dL
   106 mEq/L
   142 mEq/L
   27.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2127-10-23**]  06:26 PM
                             [**2127-10-24**]  03:37 AM
                             [**2127-10-24**]  03:44 PM
                            [**2127-10-25**]  05:20 AM
                            [**2127-10-25**]  02:41 PM
                            [**2127-10-26**]  03:37 AM
                            [**2127-10-26**]  06:22 PM
                            [**2127-10-27**]  04:22 AM
                            [**2127-10-27**]  02:20 PM
                            [**2127-10-28**]  04:08 AM
   WBC
   27.4
   23.6
   19.0
   13.4
   7.3
   6.4
   Hct
   29.6
   28.1
   27.0
   28.5
   27.3
   27.5
   Plt
   61
   49
   32
   32
   36
   48
   Cr
   5.6
   5.5
   5.8
   5.7
   5.7
   5.4
   5.5
   5.2
   5.6
   5.1
   Glucose
   100
   90
   99
   90
   96
   95
   116
   70
   91
   70
   Other labs: PT / PTT / INR:14.3/28.8/1.2, CK / CKMB /
   Troponin-T:1327/11/0.10, ALT / AST:19/27, Alk Phos / T Bili:83/1.8,
   Differential-Neuts:90.0 %, Band:2.0 %, Lymph:2.0 %, Mono:5.0 %, Eos:0.0
   %, Fibrinogen:612 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:3.2 g/dL,
   LDH:303 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:5.1 mg/dL
   MICRO: NGTD besides the strep viridins in urine on day 1.
   Radiology: None
   Assessment and Plan
   This is a 69 year old man with transitional cell bladder cancer
   diagnosed in [**2126-10-16**], s/p neobladder and multiple procedures for
   ureteral function after the neobladder, including recent ureteral stent
   swap in the OR; currently in [**Hospital Unit Name 1**] for afib with rvr that is now rate
   controlled on amio. and septic shock with multi-organ dysfunction that
   is improving.
   .
   HYPOTENSION/SEPSIS: Patient currently off all pressors and able to
   maintain appropriate MAPs, also tachycardia is improving with
   amiodarone, patient transitioned to po amiodarone with good rate
   control
   Multifactorial:
   - Keep patient net even to slightly positive today as patient in
   post-diuresis state and putting out considerable urine. Bolus as needed
   and encourage po intake.
   - check CVP to eval volume status with a goal of [**11-28**].
   - Off all pressors, maintaining a sbp > 100, tolerating well.
   - antibiotic coverage with zosyn (Start date: [**10-22**], Day [**7-22**]), will
   discontinue zosyn today as per ID
   - patient with decreasing leukocytosis, currently on empiric treatment
   for C. diff with IV flagyl and po vancomycin, 3 C. diff toxins
   negative: will d/c IV flagyl but continue po vanc for 2 days (stop
   [**10-30**]) post discontinuation of zosyn given significant history of
   C.diff
   - renal u/s shows no hydronephrosis/pyelonephritis, stents are draining
   appropriately; urology following, appreciate recs
   - f/u blood/urine cultures
urine cx positive for strep viridans, no
   other cultures positive to date
   .
   ATRIAL FIBRILLATION: significantly improved rate control while on
   amiodarone infusion, with his HR ranging in the 70
s to 90
s. Once
   infusion stopped, HR significantly rose with amiodarone 200mg po BID.
   2.5 IV metoprolol appeared to have dropped his pressures significantly
   with MAPs in the 50s. After talking with pharmacy when he is
   transitioned to po, he needs to be on 400mg po TID for the first 7
   days.
   - Continue po amio at 400mg TID for 1 week; will discuss with Rx how
   the rest of load should be administered since patient has had infusion
   longer than normal load. (typically 400 tid x 1 week, 400 [**Hospital1 **] x 2 wks,
   400 daily 2 weeks, and 200 daily maintenance)
   - Keep track of total amount patient has received of 10g load
 As of
   [**10-27**] he has received a total of 6110 mg)
   - will continue to hold patient
s home metoprolol in the setting of
   sepsis
   - Hold anticoagulation for now in setting of coagulopathy
   .
   ACUTE RENAL FAILURE: ATN most likely due to hypotension-patient
   currently [**Last Name (LF) 7633**], [**First Name3 (LF) **] monitor I/O with a goal of keeping the
   patient even, to help maintain his BP and keep his off pressors
   - Cr continuing to trend down, continue to monitor
   - K has normalized, will continue to monitor and hold kayexelate for
   now
   - discontinue sevelmer given improvement in phosphorous
   - check and replete lytes as needed this afternoon
   - continue to monitor urine output
   - Renal following closely
   .
   ANION GAP ACIDOSIS: Gap of 16 this morning. Lactate has normalized,
   with BUN slowly decreasing 117 -> 112; likely metabolic acidosis with
   respiratory compensation improving
   - Bicarb has been stable at 20, will hold further bicarb administration
   for now at this level
   - Monitor mental status with high BUN; likely a component of
   dehydration.
   - renal following, appreciate recs
   .
   SOB: crackles at bases but with improved dyspnea. Likely related to
   volume resuscitation.  Oxygenation improved today, not currently on
   supplemental oxygen
   - CXR and PE shows continued volume overload
   - patient currently self diuresing, so will hold lasix for now
   .
   THROMBOCYTOPENIA/COAGULOPATHY: Platelets are improving and INR is
   stable
   - HIT antibody negative, but since platelets are below 50,000 will hold
   SQ heparin for PPX
   - DIC panel-negative so far
   - Monitor for signs of active bleeding; currently stable
   - Urology is aware of hemarturia and feel this is expected s/p
   procedure. Will continue to monitor
   TRANSAMINITIS: Improving; likely a hit from his hypotension, not shock
   liver as enzymes were not very high and are trending down.
   - monitor lfts
   - ultrasound showed patency of portal vessels
   ICU Care
   Nutrition: Cardiac, Renal Diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-21**] 06:15 PM
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer: Omeprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / will tolerate intubation
   Disposition: ICU, possible call out today

2127-10-28 11:50:00 Physician Attending Progress Note
Chief Complaint: septic shock, from strep veridans uti, arf
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   remains off pressors,
   agitation much improved
   flagyl d/c'd
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2127-10-27**] 10:09 AM
   Vancomycin - [**2127-10-28**] 08:23 AM
   Piperacillin/Tazobactam (Zosyn) - [**2127-10-28**] 09:58 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2127-10-28**] 12:08 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-28**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 34.6
C (94.3
   HR: 65 (62 - 85) bpm
   BP: 124/72(80) {81/47(55) - 124/76(85)} mmHg
   RR: 12 (9 - 17) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.3 kg (admission): 90.1 kg
   Height: 69 Inch
   CVP: 6 (6 - 7)mmHg
   Total In:
                                                                  3,100 mL
                                                                  1,583 mL
   PO:
                                                                    960 mL
                                                                    830 mL
   TF:
   IVF:
                                                                  2,140 mL
                                                                    753 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                  2,195 mL
   Urine:
                                                                  3,210 mL
                                                                  2,195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -110 mL
                                                                   -613 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   48 K/uL
   70 mg/dL
   5.1 mg/dL
   20 mEq/L
   3.5 mEq/L
   112 mg/dL
   106 mEq/L
   142 mEq/L
   27.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2127-10-23**]  06:26 PM
                             [**2127-10-24**]  03:37 AM
                             [**2127-10-24**]  03:44 PM
                            [**2127-10-25**]  05:20 AM
                            [**2127-10-25**]  02:41 PM
                            [**2127-10-26**]  03:37 AM
                            [**2127-10-26**]  06:22 PM
                            [**2127-10-27**]  04:22 AM
                            [**2127-10-27**]  02:20 PM
                            [**2127-10-28**]  04:08 AM
   WBC
   27.4
   23.6
   19.0
   13.4
   7.3
   6.4
   Hct
   29.6
   28.1
   27.0
   28.5
   27.3
   27.5
   Plt
   61
   49
   32
   32
   36
   48
   Cr
   5.6
   5.5
   5.8
   5.7
   5.7
   5.4
   5.5
   5.2
   5.6
   5.1
   Glucose
   100
   90
   99
   90
   96
   95
   116
   70
   91
   70
   Other labs: PT / PTT / INR:14.3/28.8/1.2, CK / CKMB /
   Troponin-T:1327/11/0.10, ALT / AST:19/27, Alk Phos / T Bili:83/1.8,
   Differential-Neuts:90.0 %, Band:2.0 %, Lymph:2.0 %, Mono:5.0 %, Eos:0.0
   %, Fibrinogen:612 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:3.2 g/dL,
   LDH:303 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:5.1 mg/dL
   Imaging: no imaging
   Microbiology: f/u cx with ngtd
   initial urine cx with strep veridans
   Assessment and Plan
 HYPOTHERMIA
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 DELIRIUM / CONFUSION
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 .H/O ATRIAL FIBRILLATION (AFIB)
   Thrombocytopenia
improving
   h/o p a-fib
   Continues to improve from sepsis from strep veridans uti.  He remains
   HD stable, though orthostatic and continue with oost atn diuresis.  We
   will give fluid boluses to better match I /O
s.  We will continue C
   diff prophylaxis with po Vanco until a couple days after stopping Zosyn
   which he will compelte today.  His temp was low today which may be
   harbinger of infection, though he otherwise continue to look very
   non-toxic with stable MS [**First Name (Titles) **] [**Last Name (Titles) **].  Will recheck temp and send
   surveillance cx
s, continuing regimen.
   He remains off pressors and hemodynamically stable on his
   amiodarone
will cont amio and if he remains stable off pressors would
   stop amio and resume BB.
   He is still in a post-ATN diuresis phase and we
ll aim to match his
   urine outputs for now and replete lytes.  His cr is slowly resolving.
   Renally dosing meds and avoiding nephrotoxins.  His AGMA is slowly
   correcting likely from renal failure/sepsis.
   He is finally well enough to be called out to the floor.
   Pt continues to work with him.
   Will attempt PIVs. And then oull CVL.
   ICU Care
   Nutrition:
     Po diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2127-10-21**] 06:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes